Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([O:4][C:5]=[C:6]([H:7])[H:8])=[C:9]([H:10])[H:11]>>[C:5]=[C:6]([H:7])[H:8].[H:1][O:2][C:3](=[O:4])[C:9]([H:10])[H:11],1.74609847995
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[O:6][H:7],5.985908306830001
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])[C:4]([H:5])=[O:6],2.83495000765
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[O:8][H:9]>>[C:1]#[C:2].[C:3]([H:4])([H:5])[C:6](=[O:7])[O:8][H:9],4.93838125972
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:10].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],4.832843120340001
[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11](/[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1]/[C:2]([O:3][C:4]([H:5])[C:7]([H:8])([H:9])[H:10])=[C:11](/[H:12])[C:13]([H:14])([H:15])[H:16].[H:6],4.12811790272
[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:9][C:10]([H:11])([H:12])[H:13].[H:8],2.05812983094
[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-5.29006540255
[C:1]#[C:2].[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][H:11],-6.13194232788
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][H:9]>>[C:1]#[C:2][C:3]([H:4])=[C:5]([H:6])[H:7].[O:8][H:9],4.32262522946
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:1][C:2]#[C:3][C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:4],1.81620080315
[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6]/[O:8][H:9].[H:7]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],-4.90118738454
[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[O:1],7.65654912392
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4][H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.35942504796
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])[H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([C:9]([H:10])[H:11])=[C:12]([H:13])[H:14].[H:4],1.82673915379
[C:1][O:2][C:3]=[C:4]=[O:5]>>[C:1].[O:2][C:3]#[C:4][O:5],5.48808051863
[C:2]#[C:3][C:4]([C:5]=[C:6]([H:7])[H:8])[O:9][H:10].[H:1]>>[H:1][C:2]#[C:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[O:9][H:10],-5.821209478099999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:15]([H:16])([H:17])[H:18].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],3.88842975227
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[O:10][O:11][C:12]([H:13])([H:14])[H:15].[H:6],1.93150034876
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6]([H:7])=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:8]([H:9])[C:10]([H:11])([H:12])[H:16],4.340629402809999
[H:1][C:2](=[C:3]=[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:6]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.67532479666
[C:1]#[C:2][C:3]([O:4][H:5])[C:6](=[O:7])[H:8]>>[C:1]#[C:2][C:3]([O:4][H:5])=[C:6]=[O:7].[H:8],3.57647564799
[C:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7].[C:8][H:9]>>[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:8][H:9],-10.0260495548
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][O:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[O:9][C:10][O:11][H:12].[H:5],1.6169005579799998
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]1([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14],-2.39872842
[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],-3.15625305885
[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-7.933277521569999
[H:3].[O:1]=[C:2][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-4.2708932541800015
